US06355799B1
Preparation of 3-(2-amino-4-chloro-6-fluoro-3-methoxyphenyl)-1-methyl-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione (Compound no. 1-4)
3-(4-Chloro-6-fluoro-3-methoxy-2-nitrophenyl)-1-methyl-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione (7.5 g, 18.9 mmol) was dissolved in acetic acid (75 ml) and 4.2 g (75.6 mmol) of iron powder was added. The solution was stirred at ambient temperature under nitrogen atmosphere for 6 hr and water was added. Extraction was carried out with ethyl acetate. Organic layer was washed with water, brine, and dried with anhydrous sodium sulfate followed by evaporation to afford the title compound (6.8 g).

reactant | 3-(4-Chloro-6-fluoro-3-methoxy-2-nitrophenyl)-1-methyl-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione | 18.9 mmol, 7.5 g | ClC1=C(C(=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)[N+](=O)[O-])OC | C13H8ClF4N3O5
reactant | water | O | H2O
solvent | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 75.6 mmol, 4.2 g | [Fe] | Fe
product | 3-(2-amino-4-chloro-6-fluoro-3-methoxyphenyl)-1-methyl-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione | 6.8 g | NC1=C(C(=CC(=C1OC)Cl)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C13H10ClF4N3O3
